US07312236B2
Combine (4-(3-bromo-5-fluoro-phenyl)-cyclohex-3-enyl)-dimethyl-amine (10.8 g, 36.2 mmol), benzhydrylideneamine (7.88 g, 43.5 mmol), toluene (250 mL), BINAP (0.90 g, 1.44 mmol) and sodium t-butoxide (4.87 g, 50.7 mmol) and heat to 90° C. for 10 min. until homogeneous. Add tris(dibenzylideneacetone)dipalladium(0) (0.66 g, 0.72 mmol) and heat to 100° C. for 3 hr. Add 6M HCl solution (60 mL) carefully and continue to heat at 100° C. for 1 hr. Cool to ambient temperature and wash with ethyl acetate (2×100 mL). Basify the aqueous layer with 5N NaOH solution and extract with ethyl acetate (3×250 mL). Dry the organic layer over sodium sulfate, filter and concentrate. Purify the residue by flash chromatography (silica gel, 10% 2M NH3/MeOH in DCM) to obtain 3-(4-dimethylamino-cyclohex-1-enyl)-5-fluoro-phenylamine (2.84 g, 33.5%).

reactant | (4-(3-bromo-5-fluoro-phenyl)-cyclohex-3-enyl)-dimethyl-amine | 36.2 mmol, 10.8 g | BrC=1C=C(C=C(C1)F)C1=CCC(CC1)N(C)C | C14H17BrFN
reactant | benzhydrylideneamine | 43.5 mmol, 7.88 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | BINAP | 1.44 mmol, 0.90 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium t-butoxide | 50.7 mmol, 4.87 g | CC(C)([O-])C.[Na+]
reactant | HCl | 6M, 60 mL | Cl | ClH
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.72 mmol, 0.66 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-dimethylamino-cyclohex-1-enyl)-5-fluoro-phenylamine | 2.84 g, 33.5% | CN(C1CC=C(CC1)C=1C=C(C=C(C1)F)N)C | C14H19FN2
